US07153875B2
To a suspension of 6-[3-(1-adamantyl)-4-methoxyphenyl]-2-naphthaldehyde (0.4 g, 1.01 mmol) and ZnI2 (0.07 mg, 0.02 mmol) in anhydrous CH2Cl2 (5 mL) stirring at 0–5° C. under an argon atmosphere was added trimethylsilylcyanide (0.16 mL, 1.18 mmol). The reaction mixture was stirred for 1.0 hour at 0–5° C. before it was allowed to warm to room temperature and stirred for 26 hours. It was poured into water, extracted with CH2Cl2. After removal of the solvent, the residue was dissolved in 1,3-dioxolane (10 mL) and 2N HCl added. After stirring at room temperature for 1.5 hours, it was poured into water, extracted with EtOAc, washed with water, brine and recrystallized from hexane/CH2Cl2 to afford 2-[6-(3-[1-adamantyl]-4-methoxyphenyl)-2-naphthyl]-2-hydroxy-acetonitrile as an orange powder 0.340 mg (80%). 1H NMR (300 MHz; CDCl3): δ 1.80 (s, 6H), 2.10–2.18 (m, 9H), 2.86 (s, 1H), 3.90 (s, 3H), 5.71 (s, 1H), 6.99 (d, J=8.4 Hz, 1H), 7.51–7.61 (m, 3H), 7.78–7.82 (m, 1H), 7.90–8.02 (m, 4H).

reactant | 6-[3-(1-adamantyl)-4-methoxyphenyl]-2-naphthaldehyde | 1.01 mmol, 0.4 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)C=2C=C3C=CC(=CC3=CC2)C=O | C28H28O2
reactant | trimethylsilylcyanide | 1.18 mmol, 0.16 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | water | O | H2O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | ZnI2 | 0.02 mmol, 0.07 mg | [Zn+2].[I-].[I-]
product | 2-[6-(3-[1-adamantyl]-4-methoxyphenyl)-2-naphthyl]-2-hydroxy-acetonitrile | 0.340 mg, 80% | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)C=2C=C3C=CC(=CC3=CC2)C(C#N)O | C29H29NO2
